US06265411B1
A solution of 5-methoxycarbonyloxindole (169 mg, 0.88 mmol), (Eur. J. Med. Chem. 1983, 18, 107-111), in DMF (2 ml) was added dropwise under nitrogen to sodium hydride (35 mg, 0.88 mmol, prewashed with hexane) in DMF (1.5 ml). The mixture was stirred for 20 minutes at ambient temperature and 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (100 mg, 0.3 mmol), (prepared as described for the starting material in Example 5), was added as a solid. The mixture was heated at 60° C. for 45 minutes, allowed to cool and partitioned between ethyl acetate and water. The aqueous layer was adjusted to pH8. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (92/8). The solid was dissolved in methylene chloride/methanol and 3M ethereal hydrogen chloride (1 ml) was added. The volatiles were removed by evaporation, the solid residue suspended in ether, collected by filtration, washed with ether and dried under vacuum to give 4-(5-methoxycarbonyloxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride (55 mg. 32%).

reactant | 5-methoxycarbonyloxindole | 0.88 mmol, 169 mg | COC(=O)C=1C=C2CC(NC2=CC1)=O | C10H9NO3
reactant | sodium hydride | 0.88 mmol, 35 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.3 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 4-(5-methoxycarbonyloxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride | 55 mg, 32% | Cl.COC(=O)C=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | InChI=1S/C26H28N4O6.ClH/c1-33-21-13-18-20(14-22(21)36-9-3-6-30-7-10-35-11-8-30)27-15-28-24(18)23-17-12-16(26(32)34-2)4-5-19(17)29-25(23)31;/h4-5,12-15,23H,3,6-11H2,1-2H3,(H,29,31);1H
